US09260412B2
Preparation of ethyl 5-amino-1-(4-ethoxy-2,6-difluorobenzyl)-4-methyl-1H-pyrazole-3-carboxylate
2.01 g potassium (2Z)-3-cyano-1-ethoxy-1-oxobut-2-en-2-olate (10.9 mmol, 1.0 eq.) were dissolved in dioxane at rt and 1.34 mL trifluoroacetic acid (17.4 mmol, 1.6 eq.) were added within 2 minutes. The slurry was stirred for 10 minutes and 3.00 g (4-ethoxy-2,6-difluorobenzyl)hydrazine dihydrochloride (10.9 mmol, 1.0 eq.) were added. The reaction mixture was stirred at 130° C. for 3 hours. The resulting solid was filtered off and washed rinsed with dioxane. The filtrate was partitioned between ethyl acetate and water. The aqueous phase was washed with ethyl acetate three times. The collected organic solutions were washed with brine, dried over a silicon filter, concentrated in vacuo and purified by flash chromatography: 1.10 g (2.42 mmol, 22%) of a 71% pure target compound.

reactant | potassium (2Z)-3-cyano-1-ethoxy-1-oxobut-2-en-2-olate | 10.9 mmol, 2.01 g, 1.0 eq. | C(#N)\C(=C(\C(=O)OCC)/[O-])\C.[K+]
reactant | trifluoroacetic acid | 17.4 mmol, 1.34 mL, 1.6 eq. | FC(C(=O)O)(F)F | C2HF3O2
reactant | (4-ethoxy-2,6-difluorobenzyl)hydrazine dihydrochloride | 10.9 mmol, 3.00 g, 1.0 eq. | Cl.Cl.C(C)OC1=CC(=C(CNN)C(=C1)F)F
solvent | dioxane | O1CCOCC1 | C4H8O2
product | ethyl 5-amino-1-(4-ethoxy-2,6-difluorobenzyl)-4-methyl-1H-pyrazole-3-carboxylate | NC1=C(C(=NN1CC1=C(C=C(C=C1F)OCC)F)C(=O)OCC)C | C16H19F2N3O3
